US08404859B2
Preparation of (S)-2-{[3-Chloro-5-(3-hydroxy-benzylcarbamoyl)-thiophene-2-carbonyl]-amino}-3-[(thiophene-2-carbonyl)-amino]-propionic acid methyl ester
To a solution of (S)-3-Amino-2-{[3-chloro-5-(3-hydroxy-benzylcarbamoyl)-thiophene-2-carbonyl]-amino}-propionic acid methylester trifluoro-acetic acid salt (0.59 mmol) in anhydrous DMF (5 mL) was added triethylamine (0.2 mL, 1.18 mmol), DEPBT (0.35 g, 1.18 mmol), and 2-Thiophenecarboxylic acid (0.083 g, 0.65 mmol). The mixture was stirred at room temperature 15 h, treated with EtOAc (100 mL), washed with brine, dried over sodium sulfate, filtered and evaporated. The solid residue was purified by column (0-100% EtOAc in hexane) to give 0.15 g (49%) white foam. MS m/e 522.0 (M+H+).

reactant | (S)-3-Amino-2-{[3-chloro-5-(3-hydroxy-benzylcarbamoyl)-thiophene-2-carbonyl]-amino}-propionic acid methylester trifluoro-acetic acid salt | 0.59 mmol | FC(C(=O)O)(F)F.COC([C@H](CN)NC(=O)C=1SC(=CC1Cl)C(NCC1=CC(=CC=C1)O)=O)=O
reactant | triethylamine | 1.18 mmol, 0.2 mL | C(C)N(CC)CC | C6H15N
reactant | DEPBT | 1.18 mmol, 0.35 g | CCOP(=O)(OCC)ON1C(=O)C2=C(C=CC=C2)N=N1 | C11H14N3O5P
reactant | 2-Thiophenecarboxylic acid | 0.65 mmol, 0.083 g | S1C(=CC=C1)C(=O)O | C5H4O2S
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | (S)-2-{[3-Chloro-5-(3-hydroxy-benzylcarbamoyl)-thiophene-2-carbonyl]-amino}-3-[(thiophene-2-carbonyl)-amino]-propionic acid methyl ester | 0.15 g, 49% | COC([C@H](CNC(=O)C=1SC=CC1)NC(=O)C=1SC(=CC1Cl)C(NCC1=CC(=CC=C1)O)=O)=O | C22H20ClN3O6S2
